US08003649B2
DIPEA (1.631 mL, 9.36 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (1.389 g, 6.24 mmol) and 4-(piperidin-4-yl)aniline (1.21 g, 6.86 mmol) in DMF (30 mL). The resulting solution was stirred at 80° C. for 2 hours. The reaction mixture was evaporated to dryness, redissolved in DCM and purified by flash chromatography on silica gel, elution gradient 0 to 3% MeOH in DCM. Pure fractions were evaporated to dryness to give 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]aniline (1.910 g, 84%) as a solid.

reactant | DIPEA | 9.36 mmol, 1.631 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 6.24 mmol, 1.389 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 4-(piperidin-4-yl)aniline | 6.86 mmol, 1.21 g | N1CCC(CC1)C1=CC=C(N)C=C1 | C11H16N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]aniline | 1.910 g, 84% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(N)C=C2)(F)F | C17H17F3N6
